US04032559
A solution of 4.00 g (0.0292 m) of ethyl N,2-dicyanoacetimidate and 2.86 g (0.0292 m) 2-methylpiperidine in 80 ml of tetrahydrofuran is stirred for five days at room temperature. The reaction product is isolated in the same way as 3-(cyanoimino)-3-(N,N-diethylamino)propionitrile to give 0.76 g of product, 14%. This product is further purified by chromatography on a Merck "B" column to give material whose nmr, ir, and mass spec are consistent with the desired product.

reactant | ethyl N,2-dicyanoacetimidate | 4.00 g | C(#N)N=C(CC#N)OCC | C6H7N3O
reactant | 2-methylpiperidine | 2.86 g | CC1NCCCC1 | C6H13N
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 3-(cyanoimino)-3-(N,N-diethylamino)propionitrile | C(#N)N=C(CC#N)N(CC)CC | C8H12N4
